Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
levofloxacin / Topamax / cat
 
Attending: ___.
 
Chief Complaint:
cervical dysplasia
 
Major Surgical or Invasive Procedure:
total vaginal hysterectomy
bilateral salpingo-oophorectomy
vault suspension

 
History of Present Illness:
Ms. ___ is a ___ woman seen today in consultation
for persistent CIN III. She denies any symptoms.

Review of OMR reveals the Pap history below:
Index Pap: ___ ASCUS, hrHPV pos
Follow-up:
___ ECC CIN III
___ Path: outer LEEP neg, inner LEEP CIN III, neg margins, 
ECC
insufficent
___ Pap neg, hrHPV pos
___ Pap neg, hrHPV pos
___ Pap ASCUS, hrHPV pos
___ Path: ECC CIN III

ROS: She denies unintentional weight changes, chest pain,
shortness of breath, nausea, vomiting, abdominal pain, bloating,
increased abdominal girth, early satiety, diarrhea, dysuria,
vaginal bleeding or abnormal discharge. She reports severe
constipation requiring a daily suppository.

 
Past Medical History:
Health Maintenance:
- Mammogram: ___ neg
- Colonoscopy: ___ neg
- Bone Density: ___ osteopenia

POB: G4P2 
- ___ SVD, ___, died on day 1 of life
- ___ FT SVD, cerclage placed
- ___ FT SVD, cerclage placed
- ___ SAB

PGYN: 
- LMP ___, menses age ___, mod flow lasting 6 days
- Denies postmenopausal bleeding
- Not currently sexually active 
- Denies hormonal replacement therapy, 3 months of OCP use in
past
- Denies history of pelvic infections or sexually transmitted
infections
- Denies history of fibroids or cysts

Problems (Last Verified ___ by ___, MD):
ALLERGIC RHINITIS                                               
ANXIETY                                                         
FIBROMYALGIA                                                    
HYPOTHYROIDISM following radioactive iodine for treatment of
Grave's disease                                                  

OSTEOPENIA                                                      
PERIPHERAL NEUROPATHY                                           
CERVICAL DYSPLASIA                                              
CHRONIC CONSTIPATION                                            
H/O LYME DISEASE                                                

Surgical History:
-VEIN LIGATION right leg                                    
-TONSILLECTOMY                                                   

-LEEP                                                            

-CATARACT SURGERY                                                

-CERVICAL CERCLAGE (___)

 
Social History:
Marital status:     Significant Other                           
Children:           Yes                                         
Lives with:         ___                            
Work: ___
Sexual activity:    Present                                     
Sexual orientation: Male                                        
Sexual Abuse:       Denies                                      
Domestic violence:  Denies                                      
Contraception:      None                                        
Tobacco use:        Current every day smoker                    
Smoking cessation   Yes                                         
counseling offered:                                             
     # Packs/Day:    1                                          
     # Years Smoked: 30                                         
     Pack Years:    30                                          
Alcohol use:        Present                                     
drinks per week:    ___                                         
Recreational drugs  Denies                                      
(marijuana, heroin,                                             
crack pills or                                                  
other):                                                         
Depression:         Based on a PHQ-2 evaluation, the patient    
                    does not report symptoms of depression      
Exercise:           Activities: Gym                             
Diet:               low carbohydrate                            
Seat belt/vehicle   Always                                      
restraint use:                                       
 
Family History:
Relative  Status    Age Problem              Comments           
Mother    ___      COLON CANCER                            
                        DEEP VEIN THROMBOSIS                    

Uncle     Deceased      COLON CANCER                            

Father    Living    ___  ___ PLACEMENT                     

Brother   Living        MELANOMA                                
                        DEEP VEIN THROMBOSIS                    

Brother   Living        OSTEOPOROSIS                            

MGF       Deceased      CORONARY ARTERY                         
                        DISEASE                                 
                        DIABETES TYPE II                        

MGM       Deceased      CORONARY ARTERY                         
                        DISEASE                                 
                        DIABETES TYPE II                        

Aunt                    DEEP VEIN THROMBOSIS paternal           

Comments: No breast, cervical, uterine or ovarian cancer         


 
Physical Exam:
On day of discharge:
Afebrile, vitals stable
No acute distress
CV: regular rate and rhythm
Pulm: clear to auscultation bilaterally
Abd: soft, appropriately tender, nondistended, no 
rebound/guarding
___: nontender, nonedematous

 
Pertinent Results:
N/A
 
Brief Hospital Course:
Ms. ___ was admitted to the gynecologic oncology service 
after undergoing total vaginal hysterectomy and vault suspension 
for cervical dysplasia. Please see the operative report for full 
details.  

Her post-operative course is detailed as follows. Immediately 
postoperatively, her pain was controlled with IV dilaudid and 
toradol. Her diet was advanced without difficulty and she was 
transitioned to Tylenol, ibuprofen, and oxycodone. On 
post-operative day #1, her urine output was adequate so her 
Foley catheter was removed and she voided spontaneously. 

By post-operative day 1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with ___ in place for Lovenox injections 
(for family history of deep venous thrombosis), and with 
outpatient follow-up scheduled.

 
Medications on Admission:
- Bethamethasone cream
- Clonazepam 2 mg Q8H
- Fluticasone PRN
- Gabapentin 100 mg BID
- Levothyroxine  175 mcg
- Vitamin C
- Aspirin 81 mg daily
- Vitamin D3
- Tylenol ___
- Allegra 180 mg-240 mg tablet daily
- Flaxseed oil
- Zaditor (eye drops)
- Senna
- Vitamin B

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID 
RX *acetaminophen [Acetaminophen Pain Relief] 500 mg ___ 
tablet(s) by mouth every 8 hours Disp #*50 Tablet Refills:*1 
2.  Docusate Sodium 100 mg PO BID:PRN constipation 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
per day Disp #*50 Capsule Refills:*1 
3.  Enoxaparin Sodium 40 mg SC DAILY 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin 40 mg/0.4 mL 40 mg subcutaneous daily Disp #*28 
Syringe Refills:*0 
4.  Ibuprofen 400 mg PO Q6H:PRN Pain - Moderate 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*50 Tablet Refills:*1 
5.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Severe 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours Disp 
#*30 Tablet Refills:*0 
6.  ClonazePAM 2 mg PO TID  
7.  Gabapentin 100 mg PO BID  
8.  Levothyroxine Sodium 175 mcg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
cervical dysplasia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
.
You were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. You have recovered well 
after your operation, and the team feels that you are safe to be 
discharged home. 

Please continue your lovenox injections on a daily basis. 

Please follow these instructions: 

* Take your medications as prescribed. We recommend you take 
non-narcotics (i.e. Tylenol, ibuprofen) regularly for the first 
few days post-operatively, and use the narcotic as needed. As 
you start to feel better and need less medication, you should 
decrease/stop the narcotic first.
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (tylenol) in 24 
hrs.  
* No strenuous activity until your post-op appointment.  
* Nothing in the vagina for 3 months
* No heavy lifting of objects >10 lbs for 4 weeks.  
* You may eat a regular diet.
* It is safe to walk up stairs.  
.
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  

.
Call your doctor at ___ for:  
* fever > 100.4  
* severe abdominal pain  
* difficulty urinating  
* vaginal bleeding requiring >1 pad/hr  
* abnormal vaginal discharge  
* redness or drainage from incision  
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication  
* chest pain or difficulty breathing 
* onset of any concerning symptoms 

 
Followup Instructions:
___